US08791129B2
2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 3-methylaminopropionate dihydrochloride (“A92”)
242 μl of 4N HCl in dioxane are added to 300 mg of 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 3-(tert-butoxycarbonylmethylamino)propionate in 5 ml of dichloromethane with ice-cooling. The mixture is subsequently stirred at 25° C. for a further 1 h, the precipitate is filtered off with suction and washed with 2 ml of dichloromethane.

reactant | HCl | 4N, 242 μl | Cl | ClH
reactant | 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 3-(tert-butoxycarbonylmethylamino)propionate | 300 mg | C(C)(C)(C)OC(=O)CNCCC(=O)OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1 | C33H33F2N5O5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 3-methylaminopropionate dihydrochloride | Cl.Cl.CNCCC(=O)OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1 | InChI=1S/C28H25F2N5O3.2ClH/c1-32-9-8-25(36)38-15-19-11-22(29)23(30)12-20(19)16-6-7-24-21(10-16)26(34-28(31)33-24)27(37)35-13-17-4-2-3-5-18(17)14-35;;/h2-7,10-12,32H,8-9,13-15H2,1H3,(H2,31,33,34);2*1H
